US04113715
1-(5-Guanidino-2-mercaptomethylpentanoyl)-L-proline
A solution of 1-(5-amino-2-mercaptomethylpentanoyl)-L-proline (2.3 g), guanyl-3,5-dimethylpyrazole nitrate (2.41 g) and triethylamine (3.36 ml) in dimethylformamide (20 ml) is stored at room temperature under a blanket of argon for 16 hours. The solvents are removed in vacuo, the residue is dissolved in 0.1 N hydrochloric acid (10 ml) and zinc dust (500 mg) is added. The suspension is stirred at room temperature for two hours. After filtering, the filtrate is applied to a column of Dowex 50 ion exchange resin in the hydrogen cycle. The column is washed with water until no more acid is eluted and 1-(5-guanidino-2-mercaptomethylpentanoyl)-L-proline is then eluted with a pyridine-acetate buffer at pH 6.5.

reactant | 1-(5-amino-2-mercaptomethylpentanoyl)-L-proline | 2.3 g | NCCCC(C(=O)N1[C@H](C(=O)O)CCC1)CS | C11H20N2O3S
reactant | guanyl-3,5-dimethylpyrazole nitrate | 2.41 g | [N+](=O)(O)[O-].C(N)(=N)C=1C(=NNC1C)C
reactant | triethylamine | 3.36 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(5-Guanidino-2-mercaptomethylpentanoyl)-L-proline | N(C(=N)N)CCCC(C(=O)N1[C@H](C(=O)O)CCC1)CS | C12H22N4O3S
